US07947851B2
Step b) Formation of 4-[(4-butylphenyl)ethynyl]aniline
To a stirred solution of 4-iodoaniline (20 g, 91 mmol, Aldrich) and 1-eth-1-ynyl-4-butylbenzene (16.7 g, 105 mmol, Aldrich) in dry acetonitrile (300 mL) under nitrogen was added CuI (0.83 g, 4.3 mmol), TEA (27.7 g, 273 mmol) followed by Pd(PPh3)2Cl2 (3 g, 4.3 mmol). The reaction mixture was stirred at 85° C. for 24 hours and the solvent was removed under reduced pressure. The residue was diluted with Et2O (200 mL) and washed with water, brine and dried (MgSO4). The solvent was removed under reduced pressure and the crude product was purified by chromatography (Pet Ether/EtOAc (4/1) to give 11 g (47%) of the title compound as a solid. TLC-Pet ether/EtOAc (4/1): Rf=0.35. HPLC purity >98%.

reactant | 4-iodoaniline | 91 mmol, 20 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 1-eth-1-ynyl-4-butylbenzene | 105 mmol, 16.7 g | C(#C)C1=CC=C(C=C1)CCCC | C12H14
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
catalyst | CuI | 4.3 mmol, 0.83 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 4.3 mmol, 3 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[(4-butylphenyl)ethynyl]aniline | 11 g, 47% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(N)C=C1 | C18H19N
